US08008505B2
10.5 2-[2-(4-Chloro-phenyl)-2H-indazol-3-yl]-2-cyclohexyl-(trans)-N-(4-hydroxy-cyclohexyl)-acetamide
In analogy to the procedure described in example 6, [2-(4-chloro-phenyl)-2H-indazol-3-yl]-cyclohexyl-acetic acid was converted into the corresponding acid chloride with thionyl chloride which subsequently reacted with (trans)-4-amino-cyclohexanol (CAS Reg. No. 27489-62-9) in the presence of DMAP to give the title compound as colorless oil. MS: m/e=466.4 [M+H+].

reactant | [2-(4-chloro-phenyl)-2H-indazol-3-yl]-cyclohexyl-acetic acid | ClC1=CC=C(C=C1)N1N=C2C=CC=CC2=C1C(C(=O)O)C1CCCCC1 | C21H21ClN2O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | (trans)-4-amino-cyclohexanol | N[C@@H]1CC[C@H](CC1)O | C6H13NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-[2-(4-Chloro-phenyl)-2H-indazol-3-yl]-2-cyclohexyl-(trans)-N-(4-hydroxy-cyclohexyl)-acetamide | ClC1=CC=C(C=C1)N1N=C2C=CC=CC2=C1C(C(=O)N[C@@H]1CC[C@H](CC1)O)C1CCCCC1 | C27H32ClN3O2
